US05866717
N-Benzyloxycarbonyl-L-tert-leucine-N-2-(2-methoxy-ethoxymethoxy)ethylamide
N-Benzyloxycarbonyl-L-tert-leucine (2.01 g, 7.6 mmol) was dissolved in DMF (20 ml), cooled in an ice bath and stirred during the addition of pentafluorophenol (2.83 g, 15.4 mmol) and EDC (2.95 9, 15.4 mmol). The mixture was stirred at 0° C. for for 1 hour then at room temperature for a further 2 hours. The solution was cooled back to 0° C., a solution of O-(2-methoxyethoxymethyl) ethanolamine in ethanol, prepared in StepG, was added and the reaction was allowed to stirovernight at room temperature. The solvent was removed under reduced pressure, the residue was dissolved in diethyl ether (50 ml), and the solution was washed successively with 1M sodium carbonate (2×30 ml),1M hydrochloric acid (2×30 ml) and brine (30 ml). The organic phase was dried over magnesium sulphate, filtered and evaporated to an oil whichwas purified by column chromatography (silica gel, gradient elution with 50-75% ethyl acetate in hexane). Yield: 1.79 g (67%). 1H--NMR; δ(CDCI3), 7.34 (5H, m), 6.54 (1H, m), 5.60 (1H, m), 5.11 (2H, m), 4.62 (2H, s), 3.93 (1H, d, J=9.3 Hz), 3.70 (4H, m), 3.57 (3H, m), 3.44(3H, s), 3.41 (1H, m) and 1.00 (9H, s).

reactant | N-Benzyloxycarbonyl-L-tert-leucine | 7.6 mmol, 2.01 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)(C)C)C(=O)O | C14H19NO4
reactant | pentafluorophenol | 15.4 mmol, 2.83 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | EDC | 15.4 mmol
reactant | O-(2-methoxyethoxymethyl) ethanolamine | COCCOCOCCN | C6H15NO3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | N-Benzyloxycarbonyl-L-tert-leucine-N-2-(2-methoxy-ethoxymethoxy)ethylamide | COCCOCOCCNC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)(C)C)=O | C20H32N2O6
